US03957806
D. 2-Amino-1-[(o-bromophenoxy)methyl]pyridinium chloride
To a solution of 7.1 g of 2-aminopyridine in 35 ml of xylene is added, dropwise, a solution of 11.1 g of o-bromo-α-chloroanisole in 45 ml of xylene. The mixture is warmed at 50° for 5 minutes and allowed to stir for 40 hours at room temperature. The solid is filtered and dried to give about 16.0 g of the product. This is recrystallized from 2-propanol to give about 14.0 g of the title product, mp 171°-173°.

reactant | 2-aminopyridine | 7.1 g | NC1=NC=CC=C1 | C5H6N2
reactant | o-bromo-α-chloroanisole | 11.1 g | BrC1=C(C=CC=C1)OCCl | C7H6BrClO
solvent | xylene | 35 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | xylene | 45 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 2-Amino-1-[(o-bromophenoxy)methyl]pyridinium chloride | about 16.0 g | [Cl-].NC1=[N+](C=CC=C1)COC1=C(C=CC=C1)Br | InChI=1S/C12H11BrN2O.ClH/c13-10-5-1-2-6-11(10)16-9-15-8-4-3-7-12(15)14;/h1-8,14H,9H2;1H
